US09403798B2
6-(4-Fluorobenzyl)morpholin-3-one
To an ethanol solution (16 mL) of 2-bromo-N-[3-(4-fluorophenyl)-2-hydroxypropyl]acetamide (1.00 g, 3.45 mmol) synthesized in Reference Synthesis Example 42, potassium carbonate (715 mg, 5.17 mmol) was added and the resultant solution was stirred at 80° C. for 2.5 hours. After completion of the reaction, the reaction solution was filtered with Celite and the filtered residue was washed with ethanol. The filtrate was concentrated under reduced pressure and chloroform was added to the concentrated filtrate, followed by concentrating the filtrate under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/20→ethyl acetate/methanol=20/1 (v/v)) to obtain the title compound (100 mg, yield 14%).

reactant | 2-bromo-N-[3-(4-fluorophenyl)-2-hydroxypropyl]acetamide | 3.45 mmol, 1.00 g | BrCC(=O)NCC(CC1=CC=C(C=C1)F)O | C11H13BrFNO2
reactant | potassium carbonate | 5.17 mmol, 715 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | 6-(4-Fluorobenzyl)morpholin-3-one | 100 mg, yield 14% | FC1=CC=C(CC2OCC(NC2)=O)C=C1 | C11H12FNO2
